US07001899B2
Preparation of (6-hydroxymethyl-3-amino-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl)-acetic acid methyl ester (18):
A solution of [3-tert-Butoxycarbonylamino-6-(tert-butyl-dimethyl-silanyloxymethyl)-oxo-2,3,4,7-tetrahydro-azepin-1-yl]-acetic acid methyl ester, 17, (4.32 g, 9.7 mmol) in CH2Cl2 (20 mL) is treated with wet TFA (5 mL) and stirred at rt for 30 min. The solution is concentrated in vacuo using toluene to azeotrope off the solvent. The crude product is used without further purification.

reactant | [3-tert-Butoxycarbonylamino-6-(tert-butyl-dimethyl-silanyloxymethyl)-oxo-2,3,4,7-tetrahydro-azepin-1-yl]-acetic acid methyl ester | COC(CN1C(C(CC=C(C1)C(O[SiH2]C(C)(C)C)(C)C)NC(=O)OC(C)(C)C)=O)=O | C21H38N2O6Si
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (6-hydroxymethyl-3-amino-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl)-acetic acid methyl ester | COC(CN1C(C(CC=C(C1)CO)N)=O)=O | C10H16N2O4
